US04808597
(4,4-Dimethyl-6-chromanyl)methyltriphenylphosphonium Bromide
A mixture of 7.25 g (28.4 mmole) of 6-bromomethyl-4,4-dimethylchroman, 14.8 g (56.8 mmole) of triphenylphosphine and 100 ml of toluene were heated under reflux for 12 hours, and then the solvent was removed by evaporation in vacuo. The residue (an oil) was dissolved in dichloromethane and decolorized with activated carbon. The solvent was removed by evaporation in vacuo and the residue was triturated under hexane to remove starting materials. The product so obtained was recrystallized from toluene-chloroform and the solid was discarded. The recrystallization mother liquors were evaporated in vacuo and the oily residue was triturated under 1N hydrochloric acid and then dissolved in dichloromethane. This latter solution was dried (MgSO4) and evaporated in vacuo to give 5.2 g of the title compound as a light brown solid.

reactant | 6-bromomethyl-4,4-dimethylchroman | 28.4 mmole, 7.25 g | BrCC=1C=C2C(CCOC2=CC1)(C)C | C12H15BrO
reactant | triphenylphosphine | 56.8 mmole, 14.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | (4,4-Dimethyl-6-chromanyl)methyltriphenylphosphonium Bromide | 5.2 g | [Br-].CC1(CCOC2=CC=C(C=C12)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | InChI=1S/C30H30OP.BrH/c1-30(2)20-21-31-29-19-18-24(22-28(29)30)23-32(25-12-6-3-7-13-25,26-14-8-4-9-15-26)27-16-10-5-11-17-27;/h3-19,22H,20-21,23H2,1-2H3;1H/q+1;/p-1
